data/oMe_Silver.jsonl
{"reaction_id": "NR-116_1-CC_2-C(F)(F)F_3-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_4-C(F)(F)F","name": "Japp-Klingemann Reaction","level": "medium","reactants_smiles": ["C(=O)(CC)C(C(F)(F)F)C(=O)OCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","N#[N+]C(F)(F)F"],"products_smiles": ["C(=O)(OCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(=N[NH]C(F)(F)F)C(F)(F)F"],"conditions": "[OH-]","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]C(=C(C(=O)OCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(F)(F)F)CC","rationale": "Strong base deprotonates the acidic α-proton between carbonyls due to resonance stabilization of the resulting enolate."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=O)OCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(=O)CC)(N=NC(F)(F)F)C(F)(F)F","rationale": "The nucleophilic enolate carbon attacks the electrophilic diazonium nitrogen, driven by the strong electrophilicity of the diazonium group."},{"step": 3,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(=O)OCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(O)([O-])(CC))(N=NC(F)(F)F)C(F)(F)F","rationale": "Electrophilic addition of hydroxide to the carbonyl occurs due to increased electrophilicity from adjacent electron-withdrawing groups."},{"step": 4,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(=O)(OCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(=N[N-]C(F)(F)F)C(F)(F)F","rationale": "Heterolytic cleavage occurs as the leaving group departs, stabilized by resonance in the resulting imine-like intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(OCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(=N[NH]C(F)(F)F)C(F)(F)F","rationale": "Proton transfer under basic conditions neutralizes the anionic nitrogen, yielding the stable hydrazone product."}],"description": "Under basic conditions, the α-proton of the β-keto acid is deprotonated to form an enolate, which nucleophilically attacks the diazonium species. Subsequent rearrangements and cleavages yield the hydrazone product, stabilized by conjugation with the carbonyl group."}
